US08008293B2
Synthesis of (2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-carboxylic acid ethyl ester
A 4 N hydrochloric acid/ethyl acetate solution (120 mL) was added to (R)-2-t-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxovaleric acid ethyl ester (17.4 g). Stirring was continued for 3 hours at room temperature. The solvent was removed under a vacuum, and ethyl acetate and saturated sodium bicarbonate solution was added, and the organic layer was partitioned. The organic layer was washed with brine and was dried with magnesium sulfate. The solvent was removed under a vacuum, and methanol (200 mL) and acetic acid (50 mL) were added to the residue. The reaction solution was cooled to −50° C., and sodium borohydride (1.07 g) was added over 20 minutes. After stirring for 4 hours at −50° C. to room temperature, the resultant was stirred overnight at room temperature. Disodium hydrogenphosphate solution was added to the reaction solution, and the solvent was removed under a vacuum, Water and ethyl acetate were added, and the organic layer was partitioned. Saturated sodium bicarbonate solution was added to the organic layer, and stirring was continued for 1 hour at room temperature, and the organic layer was partitioned. The organic layer was washed with brine and was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the residue was purified by silica gel column chromatography (heptane/ethyl acetate), and the title compound (4.71 g) was obtained.

reactant | (R)-2-t-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxovaleric acid ethyl ester | 17.4 g | C(C)OC([C@@H](CCC(=O)C1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C18H24ClNO5
solvent | hydrochloric acid ethyl acetate | 4 N, 120 mL | Cl.C(C)(=O)OCC
product | (2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 4.71 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC=C(C=C1)Cl | C13H16ClNO2
